US08563573B2
To a solution of 2-tert-butyl-5-nitro-1H-pyrrolo[2,3-b]pyridine (2.3 g, 0.01 mol) in MeOH (50 mL) was added Raney Ni (0.23 g, 10%) under N2 protection. The mixture was stirred under hydrogen atmosphere (1 atm) at 30° C. for 1 h. The catalyst was filtered off and the filtrate was concentrated to dryness under vacuum. The residue was purified by column chromatography on silica gel (petroleum ether/ethyl acetate 1:2) to give 2-tert-butyl-1H-pyrrolo[2,3-b]pyridin-5-amine (1.4 g, 70%). 1H-NMR (MeOD, 400 MHz) δ 7.71 (s, 1H), 7.27 (s, 1H), 5.99 (s, 1H), 1.37 (s, 9H). MS (ESI) m/e (M+H+) 190.1.

reactant | 2-tert-butyl-5-nitro-1H-pyrrolo[2,3-b]pyridine | 0.01 mol, 2.3 g | C(C)(C)(C)C1=CC=2C(=NC=C(C2)[N+](=O)[O-])N1 | C11H13N3O2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Ni | 0.23 g | [Ni] | Ni
product | 2-tert-butyl-1H-pyrrolo[2,3-b]pyridin-5-amine | 1.4 g, 70% | C(C)(C)(C)C1=CC=2C(=NC=C(C2)N)N1 | C11H15N3
